US07232821B2
6-{2-[5-Chloro-2-(4-chloro-benzyloxy)-phenyl]-cyclopent-1-enyl}-pyridine-2-carboxylic acid 4-chloro-benzyl ester
6-{2-[5-Chloro-2-(hydroxy)-phenyl]-cyclopent-1-enyl}-pyridine-2-carboxylic acid (97 mg, 0.30 mmol) was refluxed in 2-butanone (4 mL) with 4-chlorobenzyl bromide (140 mg, 0.70 mmol) and potassium carbonate (1.0 g) under nitrogen for five hours. The reaction mixture was then filtered through highflo, evaporated down to an oil and chromatographed on a Water's sep-pak (10 g) with ether/iso-hexane (15/85) to give (160 mg, 92%).

reactant | 6-{2-[5-Chloro-2-(hydroxy)-phenyl]-cyclopent-1-enyl}-pyridine-2-carboxylic acid | 0.30 mmol, 97 mg | ClC=1C=CC(=C(C1)C1=C(CCC1)C1=CC=CC(=N1)C(=O)O)O | C17H14ClNO3
reactant | 4-chlorobenzyl bromide | 0.70 mmol, 140 mg | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 4 mL | CC(CC)=O | C4H8O
product | 6-{2-[5-Chloro-2-(4-chloro-benzyloxy)-phenyl]-cyclopent-1-enyl}-pyridine-2-carboxylic acid 4-chloro-benzyl ester | ClC1=CC=C(COC(=O)C2=NC(=CC=C2)C2=C(CCC2)C2=C(C=CC(=C2)Cl)OCC2=CC=C(C=C2)Cl)C=C1 | C31H24Cl3NO3
